US05296585
100 gms of isophthalic acid (0.6 mole) was slurried in 1 liter of water, the mixture heated to 90° C. and an equivalent amount of barium hydroxide monohydrate was added over a 25 minute period. The reaction mixture was kept at 90°-95° C. for an additional 45 minutes and allowed to cool at room temperature. Barium isophthalate was obtained in the form of long rods (with a length greater than 200 microns) and aspect ratios above 10. Anhydrous rods are produced by heating to dehydrate in a manner similar to the above examples.

reactant | isophthalic acid | 0.6 mole, 100 gms | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | barium hydroxide monohydrate | O.[OH-].[Ba+2].[OH-]
solvent | water | 1 liter | O | H2O
product | Barium isophthalate | C(C1=CC(C(=O)[O-])=CC=C1)(=O)[O-].[Ba+2] | InChI=1S/C8H6O4.Ba/c9-7(10)5-2-1-3-6(4-5)8(11)12;/h1-4H,(H,9,10)(H,11,12);/q;+2/p-2
